US04666938
3,5-Dimethyl-4-propionylaniline (1.77 g) in toluene (20 ml) was dropwise added to a toluene solution containing 10 g of phosgene at 10° to 20° C. The resulting mixture was gradually heated and, after being refluxed for 30 minutes, cooled to room temperature. The solvent was removed by distillation uner reduced pressure to give crude 3,5-dimethyl-4-propionylphenyl isocyanate. The thus obtained crude substance was added to a toluene solution (50 ml) containing triethylamine (1.0 g) and 1-butyn-3-ol (0.75 g). The resultant mixture was allowed to stand at room temperature for 12 hours, poured into ice-water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography using a mixture of toluene and ethyl acetate as the eluent to give 1-methyl-2-propynyl N-(3,5-dimethyl-4-propionylphenyl)carbamate (Compound No. 60) (2.45 g) in a yield of 89.9%. nD23.0 1.5247.

reactant | 3,5-Dimethyl-4-propionylaniline | 1.77 g | CC=1C=C(N)C=C(C1C(CC)=O)C | C11H15NO
reactant | phosgene | 10 g | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
reactant | 1-butyn-3-ol | 0.75 g | C#CC(C)O | C4H6O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-2-propynyl N-(3,5-dimethyl-4-propionylphenyl)carbamate | 2.45 g, yield of 89.9% | CC=1C=C(C=C(C1C(CC)=O)C)NC(OC(C#C)C)=O | C16H19NO3
